US04105790
A mixture of 4-methoxycarbonyl-5-[4-(methoxycarbonylmethoxy)phenyl]oxazole (2.34g.) and a saturated solution of hydrogen chloride in methanol (20ml.) was heated under reflux for 2 hours. The reaction mixture was then evaporated in vacuo and the yellow residue obtained was triturated with ether (100ml.) (dried over sodium wire) to give methyl 4-(α-amino-α-methoxycarbonylacetyl)phenoxyacetate hydrochloride as an off-white amorphous solid (1.9g.), m.p. 120°-125° C., having a satisfactory analysis; found: C, 48.9%; H, 5.1%; N, 4.2%; required: C, 49.2%; H, 5.05%; N, 4.42%.

reactant | 4-methoxycarbonyl-5-[4-(methoxycarbonylmethoxy)phenyl]oxazole | 2.34g | COC(=O)C=1N=COC1C1=CC=C(C=C1)OCC(=O)OC | C14H13NO6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 20ml | CO | CH4O
product | methyl 4-(α-amino-α-methoxycarbonylacetyl)phenoxyacetate hydrochloride | Cl.NC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)C(=O)OC | InChI=1S/C13H15NO6.ClH/c1-18-10(15)7-20-9-5-3-8(4-6-9)12(16)11(14)13(17)19-2;/h3-6,11H,7,14H2,1-2H3;1H
